2109-11-12 07:53:00 Physician Resident Progress Note
Chief Complaint: Change in Mental Status
   24 Hour Events:
   No sig events overnight
 EKG - At [**2109-11-11**] 09:45 PM
 SPUTUM CULTURE - At [**2109-11-11**] 09:47 PM
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 29.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-12**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 109 (81 - 109) bpm
   BP: 90/47(58) {87/37(50) - 138/73(91)} mmHg
   RR: 34 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  1,368 mL
                                                                  1,058 mL
   PO:
             TF:
   IVF:
                                                                    818 mL
                                                                  1,008 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    185 mL
   Urine:
                                                                    820 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    548 mL
                                                                    873 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.37/47/155/29/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   304 K/uL
   9.3 g/dL
   237 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.3 mEq/L
   26 mg/dL
   113 mEq/L
   146 mEq/L
   29.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2109-11-11**]  09:37 PM
                             [**2109-11-11**]  10:02 PM
                             [**2109-11-12**]  04:06 AM
   WBC
   10.1
   Hct
   29.7
   Plt
   304
   Cr
   0.9
   TropT
   0.02
   0.03
   TCO2
   28
   Glucose
   237
   Other labs: CK / CKMB / Troponin-T:30/5/0.03, Lactic Acid:0.9 mmol/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   A/P: 73 yo W with PMH of CAD, CM, COPD, DM, afib here with hypoglycemia
   and altered mental status.
   .
   Hypercarbic Respiratory Distress: ABG notable for respiratory acidosis,
   likely secondary to hypoventilation in setting of altered mental
   status.  Pt urine positive for opiods and was hypoglycemic.  Pt glucose
   has been controlled to high since admission. CT scan showed Ill-defined
   patchy airspace disease at the lung apices could represent inflammation
   versus an atypical infection.  Pt sputum growing GPC.
   - wean propofol in order to follow mental status
   - Continue mechanical ventilation and attempt to wean when mental
   status improves.
   - RSBI and SBT in AM if MS improved
   .
   Altered Mental Status: Unclear etiology- may be secondary to
   hypoglycemia though MS did not improve with correction of blood glucose
   vs opiates and utox was positive. Pt was afebrile but leukocytosis with
   WBC of 13.3. Sputum showed GPC. No consoliation on CXR, but CT showed
   ill-defined patchy disease in lung apices.
   - will treat GPC with levofloxacin and also cover for MRSA given
   patient is from nursing home and frequent admissions to the hospital
   with Vanco.  Will adjust according to culture and sensitivities
   - Monitor Q4 FS
   - Hold on sedating meds including narcotics
   .
   Leukocytosis: Afebrile on presentation. CT Chest w/o consolidation but
   patchy opacities. Sputum with GPC and temp was 100.5.
   See above.
   - start levofloxacin and vanco for pna
   - f/u sputum cx and sensitivities
   - f/u blood, urine cultures
   - monitor fever curve and wbc count
   .
   #Low Urine Ouput: Pt with decreasing UOP this AM.  Will bolus the with
   500cc LR and monitor UOP.
   -          goal UPO >30cc/hr
   -          will bolus as ness
   Cyanosis: Unclear etiology given normal blood pressures. No evidence of
   microemboli.
   - BCx
   - vascular checks
   .
   Hypernatremia: Na was 146.  Free water deficit of 1.7L today
   - D5W @ 110cc/hr over 8hours to correct [**2-6**] of deficit
   - check afternoon lytes and replete as ness
   .
   #ST depression on EKG:  Cards was consulted and recommended following
   CE.  3^rd set Trop was 0.03 and CK were flat.  Will cont to monitor and
   try to obtain outside EKG records.
   -          Cont to monitor.  Will wean from sedation and reassess.
         - obtain outside records
   DM: On glargine at nursing home
   - Q4hr FS
   - Insulin SS
   .
   FEN: NPO, D5W, replete lytes PRN
   .
   PPX: heparin SC, bowel regimen
   .
   ACCESS: PIV
   .
   CONTACT: [**Name (NI) 342**] (daughter) [**Telephone/Fax (1) 1158**]
   .
   CODE: FULL for now
   .
   DISPO: ICU level care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-11-11**] 06:43 PM
   22 Gauge - [**2109-11-12**] 04:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-13 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Sputum culture pending, so did not d/c vancomycin
   - UOP > 80cc/hour (checked at 2200)
   - TSH, LFTs normal
   - [**Hospital1 **] discharge summary - in chart.
   - PS > AC at 2:00am, looked uncomfortable/labored breathing > PS at
   5:30am
 BLOOD CULTURED - At [**2109-11-12**] 04:17 PM
 URINE CULTURE - At [**2109-11-12**] 04:17 PM
 FEVER - 102.2
F - [**2109-11-12**] 03:00 PM
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-12**] 04:00 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-13**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.9
C (98.5
   HR: 113 (100 - 123) bpm
   BP: 126/58(76) {84/40(50) - 149/79(91)} mmHg
   RR: 23 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  3,507 mL
                                                                    123 mL
   PO:
             TF:
   IVF:
                                                                  3,347 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    400 mL
   Urine:
                                                                  1,920 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,587 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 300 (0 - 356) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   304 K/uL
   9.3 g/dL
   129 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   21 mg/dL
   114 mEq/L
   145 mEq/L
   29.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2109-11-11**]  09:37 PM
                             [**2109-11-11**]  10:02 PM
                             [**2109-11-12**]  04:06 AM
                             [**2109-11-12**]  12:36 PM
                             [**2109-11-12**]  08:52 PM
   WBC
   10.1
   Hct
   29.7
   Plt
   304
   Cr
   0.9
   1.0
   TropT
   0.02
   0.03
   0.03
   TCO2
   28
   Glucose
   237
   129
   Other labs: CK / CKMB / Troponin-T:28/4/0.03, ALT / AST:24/17, Alk Phos
   / T Bili:80/0.4, Lactic Acid:0.9 mmol/L, LDH:246 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A/P: 73 yo W with PMH of CAD, CM, COPD, DM, afib here with hypoglycemia
   and altered mental status.
   .
   Hypercarbic Respiratory Distress: ABG notable for respiratory acidosis,
   likely secondary to hypoventilation in setting of altered mental
   status.  Pt urine positive for opiods and was hypoglycemic.  Pt glucose
   has been controlled to high since admission. CXR today shows worsening
   consolidation.  Likely pna.  CT scan showed Ill-defined patchy airspace
   disease at the lung apices could represent inflammation versus an
   atypical infection.  Pt sputum growing GPC.  Attempted to wean patient
   today and failed
   - Continue mechanical ventilation for now and attempt to wean tomorrow
   .
   Altered Mental Status: Unclear etiology- may be secondary to
   hypoglycemia though MS did not improve with correction of blood glucose
   vs opiates and utox was positive. Pt was afebrile but leukocytosis on
   admission. Sputum showed GPC. No consoliation on CXR, but CT showed
   ill-defined patchy disease in lung apices.
   - will treat GPC with levofloxacin and also cover for MRSA given
   patient is from nursing home and frequent admissions to the hospital
   with Vanco.  Will adjust according to culture and sensitivities
   - Monitor Q4 FS
   - Hold on sedating meds including narcotics
   .
   Pneumonia: Afebrile on presentation, but spiked to 102.2 CT CXR
   consisent with consolidation and pna.. Sputum with GPC x2.
   See above.
   - start levofloxacin and vanco for pna
   - f/u sputum cx and sensitivities and d/c vanco if not MRSA
   - f/u blood, urine cultures
   - monitor fever curve and wbc count
   .
   #Low Urine Ouput: Pt with good UOP overnight.
   -          goal UPO >30cc/hr
   -          will bolus as ness
   Cyanosis: Unclear etiology given normal blood pressures. No evidence of
   microemboli.
   - BCx
   - vascular checks
   .
   Hypernatremia: Na was 145.  Pt was 1.0L free water deficit.
   - will had 250cc free water q6 in TF
   - check afternoon lytes
   .
   #ST depression on EKG:  Cards was consulted and recommended following
   CE.  4rd set Trop was 0.03 and CK were flat.  Will cont to monitor and
   EKG showed ST depression in II, III, avL, v3-v4.
   -    Cont to monitor.  Will wean from sedation and reassess.
   DM: On glargine at nursing home. FS controlled this admission
   - Q4hr FS
   - Insulin SS
   .
   FEN: Will start TF, D5W, replete lytes PRN
   - resume po diabetic/cardiac diet when extubated
   .
   PPX: heparin SC, bowel regimen
   .
   ACCESS: [**Last Name (LF) 1200**], [**First Name3 (LF) 116**] plan to place PICC given difficult access.
   .
   CONTACT: [**Name (NI) 342**] (daughter) [**Telephone/Fax (1) 1158**]
   .
   CODE: FULL for now
   .
   DISPO: ICU level care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2109-11-12**] 04:47 AM
   20 Gauge - [**2109-11-13**] 01:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-14 07:27:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, pneumonia
   24 Hour Events:
   - PICC not placed
   - Continued to have low grade temp to 100.6 overnight
   - PS 15/5, 40% Vt 300-400, RR ~20
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-13**] 07:37 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-11-14**] 01:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-14**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 104 (97 - 123) bpm
   BP: 130/55(75) {98/44(56) - 137/70(85)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  1,306 mL
                                                                    770 mL
   PO:
             TF:
                                                                     83 mL
                                                                    143 mL
   IVF:
                                                                    852 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    320 mL
   Urine:
                                                                  1,465 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -159 mL
                                                                    450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 416 (54 - 416) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.32/55/145/27/1
   Ve: 7.6 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   279 K/uL
   9.2 g/dL
   179 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   19 mg/dL
   113 mEq/L
   146 mEq/L
   28.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2109-11-11**]  09:37 PM
                             [**2109-11-11**]  10:02 PM
                             [**2109-11-12**]  04:06 AM
                             [**2109-11-12**]  12:36 PM
                             [**2109-11-12**]  08:52 PM
                             [**2109-11-13**]  12:40 PM
                             [**2109-11-13**]  12:55 PM
   WBC
   10.1
   11.5
   Hct
   29.7
   28.2
   Plt
   304
   279
   Cr
   0.9
   1.0
   0.8
   TropT
   0.02
   0.03
   0.03
   TCO2
   28
   30
   Glucose
   237
   129
   179
   Other labs: PT / PTT / INR:13.1/35.0/1.1, CK / CKMB /
   Troponin-T:28/4/0.03, ALT / AST:24/17, Alk Phos / T Bili:80/0.4, Lactic
   Acid:0.9 mmol/L, LDH:246 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.7
   mg/dL
   Fluid analysis / Other labs:
   Imaging: CT Chest:
   1. Scattered ground glass and nodular opacities are worrisome for
   multifocal
   pneumonia.
   2. Cardiomegaly with bilateral small pleural effusions.
   3. ETT and NGT in good position.
   Microbiology: Sputum: RESPIRATORY CULTURE (Preliminary):    SPARSE
   GROWTH OROPHARYNGEAL FLORA
   Urine: GRAM NEGATIVE ROD(S).    ~7000/ML
   Blood: NGTD
   Assessment and Plan
   Mrs. [**Known lastname 1219**] is a 73 year old female with a PMH significant for CAD, CM,
   COPD, DM, afib s/p pacer admitted with hypoglycemia and altered mental
   status likely secondary to aspiration pneumonia.
   .
   # Hypercarbic Respiratory Failure: Given altered mental status,
   leukocytosis, and CXR findings, this likely represents an aspiration
   versus atypical pneumonia.  ABG yesterday 7.32/55/145 on PS 10/5, 40%,
   increased to PS 15/5, 40%.  RSBI this AM <100.  CXR demonstrates
   bilateral infiltrates (R>L) improved from yesterday.  Sputum culture
   demonstrated sparse growth after gram stain showed GPC in pairs.
   - RSBI<100, SBT this AM and extubate if possible
   - Continue vancomycin and levofloxacin
   - Repeat ABG this AM
   - Wean sedation as possible
   .
   # Pneumonia: Afebrile on presentation, but has since become febrile to
   102.2 with CT and CXR demonstrating bilateral consolidations. Sputum
   with GPC in pairs on gram stain but with OP growth on culture.
   - Continue levofloxacin and vanco for atypical versus aspiration
   pneumonia.
   - f/u blood, urine cultures
   - monitor fever curve and wbc count.
   - Send Legionella urinary antigen
   .
   # Altered Mental Status: Unclear etiology- may be secondary to
   hypoglycemia though MS did not improve with correction of blood glucose
   vs opiates and utox was positive. Likely secondary to pneumonia as
   stated above.
   .
   # Hypernatremia: Na 146 yesterday.  Has been receiving 250cc free water
   flushes Q6H with TF.
   - Check serum chemistries this AM
   .
   # ST depression on EKG:  Admission ECG showed ST depression in II, III,
   avL, v3-v4.  Cards was consulted and recommended following CE.  Cardiac
   biomarkers x4 drawn with rise in troponin to 0.04 with flat CK likely
   representing demand ischemia.
   # DM: On NPH at home. FS in past 24 hours 145-222.
   - Continue ISS with accuchecks
   - As patient is on TF, restart NP (Insulin NPH 40U qAM, 25U qPM ).
   .
   # FEN: Continue TF. Patient will need speech and swallow eval when
   extuabed.
   .
   # PPX: heparin SC, bowel regimen
   .
   # ACCESS: PIV, PICC today.
   .
   # CONTACT: [**Name (NI) 342**] (daughter) [**Telephone/Fax (1) 1158**]
   .
   # CODE: Full
   .
   # DISPO: ICU level care for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-13**] 03:40 PM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2109-11-12**] 04:47 AM
   20 Gauge - [**2109-11-13**] 01:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-15 06:36:00 Physician Resident Progress Note
Chief Complaint: Hypoglycemia, pneumonia, respiratory failure
   24 Hour Events:
 PICC LINE - START [**2109-11-14**] 02:00 PM
 SPUTUM CULTURE - At [**2109-11-14**] 07:20 PM
 BLOOD CULTURED - At [**2109-11-15**] 12:12 AM
 FEVER - 101.2
F - [**2109-11-15**] 12:00 AM
   [**11-14**]
   - PICC placed
   - Placed back on assist control
   - Repeat sputum gram stain - no organisms
   - RSBI today 88
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-13**] 07:37 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-11-15**] 02:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-15**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100.1
   HR: 103 (98 - 120) bpm
   BP: 134/59(79) {100/36(53) - 153/78(101)} mmHg
   RR: 32 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.9 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  2,103 mL
                                                                    729 mL
   PO:
             TF:
                                                                    691 mL
                                                                    297 mL
   IVF:
                                                                    362 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    280 mL
   Urine:
                                                                  1,790 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    313 mL
                                                                    449 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 0 (0 - 312) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.32/55/138/27/1
   Ve: 6.6 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: Sedated, opens eyes to stimulus, able to move
   extremities
   Eyes / Conjunctiva: PERRL
   HEENT: ETT in place, NCAT
   Pulm: Decreased breath sounds at right base
   CV: Nl S1+S2
   Abd: S/NT/ND +Bs
   Ext: 1+ dp b/l, no c/c/e
   Neuro: Opens Sedated, opens eyes to stimulus, able to move extremities.
   Labs / Radiology
   225 K/uL
   8.5 g/dL
   243 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   25 mg/dL
   111 mEq/L
   144 mEq/L
   26.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2109-11-11**]  09:37 PM
                             [**2109-11-11**]  10:02 PM
                             [**2109-11-12**]  04:06 AM
                             [**2109-11-12**]  12:36 PM
                             [**2109-11-12**]  08:52 PM
                             [**2109-11-13**]  12:40 PM
                             [**2109-11-13**]  12:55 PM
                             [**2109-11-14**]  08:15 AM
                             [**2109-11-14**]  08:25 AM
                            [**2109-11-15**]  05:10 AM
   WBC
   10.1
   11.5
   14.5
   10.7
   Hct
   29.7
   28.2
   29.6
   26.8
   Plt
   [**Telephone/Fax (3) 1256**]25
   Cr
   0.9
   1.0
   0.8
   0.8
   0.7
   TropT
   0.02
   0.03
   0.03
   TCO2
   28
   30
   30
   Glucose
   237
   129
   179
   181
   243
   Other labs: PT / PTT / INR:13.1/35.0/1.1, CK / CKMB /
   Troponin-T:28/4/0.03, ALT / AST:24/17, Alk Phos / T Bili:80/0.4, Lactic
   Acid:1.0 mmol/L, LDH:246 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.0
   mg/dL
   Imaging: CXR - bilateral pleural effusions, bibasilar and RUL
   infiltrates unchanged from yesterday. PICC in place.
   Microbiology: Blood: NGTD
   Urine: 7000 CFU GNR
   Sputum: OP flora
   Assessment and Plan
   Mrs. [**Known lastname 1219**] is a 73 year old female with a PMH significant for CAD, CM,
   COPD, DM, afib s/p pacer admitted with hypoglycemia and altered mental
   status likely secondary to aspiration pneumonia.
   .
   # Respiratory Failure: Given altered mental status, leukocytosis, and
   CXR findings, this likely represents an aspiration pneumonia.  RSBI
   this AM 88, patient unlikely to be successful intubation in setting of
   continued fevers and mental status.  CXR demonstrates bibasilar and RUL
   infiltrate unchanged from yesterday, although infiltrate at right base
   improved on CXR.  Repeat sputum gram stain negative.
   - Bronchoscopy today for RUL BAL sample.
   - Consider expanding antimicrobial coverage back to vancomycin and
   adequate gram negative coverage as patient has been febrile in spite of
   levofloxacin therapy.
   - Continue levofloxacin for now
   - Continue propafol, check amylase, lipase, and triglycerides
   .
   # Pneumonia: Patient febrile overnight to 101.2.  Repeat sputum gram
   stain negative.
   - Bronchoscopy today
   - Continue levofloxacin, consider broadening coverage as above
   - f/u blood cultures
   - Monitor fever curve and WBC count
   .
   # Altered Mental Status: Likely secondary to hypoglycemia.  Patient
   becomes able to move extremities and is more alert when propafol turned
   off.
   .
   # ST depression on EKG:  Admission ECG showed ST depression in II, III,
   avL, v3-v4.  Cards was consulted and recommended following CE.  Cardiac
   biomarkers x4 drawn with rise in troponin to 0.04 with flat CK likely
   representing demand ischemia.
   .
   # Anemia: Patient with hct of 26.8 this AM down from 34 on admission.
   MCV normocytic, unclear etiology to anemia.
   - Trend hct, transfuse for hct<25
   - Guaiac stools.
   .
   # DM: Restarted low dose NPH at home.  FS in past 24 hours 213-254.
   - Increase NPH to 10u qAM/PM, continue ISS with accuchecks
   .
   # FEN: Continue TF.
   .
   # PPX: heparin SC, bowel regimen
   .
   # ACCESS: PICC.
   .
   # CONTACT: [**Name (NI) 342**] (daughter) [**Telephone/Fax (1) 1158**]
   .
   # CODE: Full
   .
   # DISPO: ICU level care for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-14**] 10:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2109-11-14**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-16 08:08:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Status
   24 Hour Events:
   - Bronchoscopy performed - BAL gram stain with no organisms, 1+ PMNs
   - Added vancomycin and ceftaz; d/c'd levofloxacin
   - Increased NPH dose
   - Amylase, lipase normal reducing concern for propofolol-induced
   pancreatitis
   - Given additional dose of Lasix (20mg IV x1) at 2200
 BRONCHOSCOPY - At [**2109-11-15**] 12:25 PM
 FEVER - 101.3
F - [**2109-11-15**] 02:00 PM
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2109-11-15**] 11:53 AM
   Vancomycin - [**2109-11-15**] 08:00 PM
   Ceftazidime - [**2109-11-16**] 12:09 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-11-16**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-16**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37
C (98.6
   HR: 116 (101 - 122) bpm
   BP: 141/21(53) {93/21(46) - 148/90(93)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.9 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  2,722 mL
                                                                    813 mL
   PO:
             TF:
                                                                  1,085 mL
                                                                    344 mL
   IVF:
                                                                    957 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    790 mL
   Urine:
                                                                  1,835 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    887 mL
                                                                     23 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.42/47/167/34/5
   Ve: 7.3 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: L>R pupil
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardia
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   246 K/uL
   9.0 g/dL
   213 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.1 mEq/L
   26 mg/dL
   103 mEq/L
   139 mEq/L
   28.2 %
   10.8 K/uL
        [image002.jpg]
                             [**2109-11-12**]  04:06 AM
                             [**2109-11-12**]  12:36 PM
                             [**2109-11-12**]  08:52 PM
                             [**2109-11-13**]  12:40 PM
                             [**2109-11-13**]  12:55 PM
                             [**2109-11-14**]  08:15 AM
                             [**2109-11-14**]  08:25 AM
                            [**2109-11-15**]  05:10 AM
                            [**2109-11-15**]  07:47 AM
                            [**2109-11-16**]  03:47 AM
   WBC
   10.1
   11.5
   14.5
   10.7
   10.8
   Hct
   29.7
   28.2
   29.6
   26.8
   28.2
   Plt
   [**Telephone/Fax (3) 1256**]25
   246
   Cr
   0.9
   1.0
   0.8
   0.8
   0.7
   0.7
   TropT
   0.03
   0.03
   TCO2
   30
   30
   32
   Glucose
   237
   129
   179
   181
   243
   213
   Other labs: PT / PTT / INR:13.1/35.0/1.1, CK / CKMB /
   Troponin-T:28/4/0.03, ALT / AST:24/17, Alk Phos / T Bili:80/0.4,
   Amylase / Lipase:18/24, Lactic Acid:1.0 mmol/L, LDH:246 IU/L, Ca++:8.3
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 1219**] is a 73 year old female with a PMH significant for CAD, CM,
   COPD, DM, afib s/p pacer admitted with hypoglycemia and altered mental
   status likely secondary to aspiration pneumonia.
   .
   # Respiratory Failure: Given altered mental status, leukocytosis, and
   CXR findings, this likely represents an aspiration pneumonia.  RSBI
   this AM 88, patient unlikely to be successful intubation in setting of
   continued fevers and mental status.  CXR demonstrates bibasilar and RUL
   infiltrate unchanged from yesterday, although infiltrate at right base
   improved on CXR.  Repeat sputum gram stain negative.
   - Bronchoscopy yesterday, gram stain from BAL sample negative.
   - ID recs, changed abx to ceftaz and vancomycin
   - discontinued levofloxacin
   - Continue propafol, (amylase & lipase wnl, but triglycerides 749. -->
   repeat
   - RSBI was 74, wean and attempt to extubate.
   .
   # Pneumonia: Patient febrile overnight to 101.3.  Repeat sputum gram
   stain negative.
   - Bronchoscopy yesterday
   - Broadening coverage to ceftaz and vanco
   - f/u blood cultures
   - Monitor fever curve and WBC count
   .
   #Tahcycardia: Pt with increasing tachycardia this AM  (130's).  Could
   repesent infection given patient has been afebrile vs pt due for BB
   this AM vs agitation vs pancreatits (amylase, lipase wnl)
   -check EKG
   - increase lopressor 150mg [**Hospital1 **]
   .
   # Altered Mental Status: Likely secondary to hypoglycemia.  Patient
   becomes able to move extremities and is more alert when propafol turned
   off.
   .
   # ST depression on EKG:  Admission ECG showed ST depression in II, III,
   avL, v3-v4.  Cards was consulted and recommended following CE.  Cardiac
   biomarkers x4 drawn with rise in troponin to 0.04 with flat CK likely
   representing demand ischemia.
   - will check EKG
   .
   # Anemia: Patient with hct of 28.2 AM down. MCV normocytic, unclear
   etiology to anemia.
   - Trend hct, transfuse for hct<25
   - Guaiac stools.
   .
   # DM: Increased NPH to 10U qAM/PM.  FS in past 24 hours 213-254.
   - Cont NPH to 10u qAM/PM, continue ISS with accuchecks
   - will titrate ISS based on SS requirement
   .
   # FEN: Continue TF.
   .
   # PPX: heparin SC, bowel regimen
   .
   # ACCESS: PICC.
   .
   # CONTACT: [**Name (NI) 342**] (daughter) [**Telephone/Fax (1) 1158**]
   .
   # CODE: Full
   .
   # DISPO: ICU level care for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-16**] 07:37 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2109-11-14**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2109-11-16 11:56:00 Physician Attending Progress Note
24 Hour Events:
   Ms. [**Known lastname 1219**] was essentially stable yesterday, isolated fever in
   afternoon; possibly related to bronchoscopy/BAL.  Otherwise she was
   hemodynamically stable and stable oxygenation.
   Allergies:
   Penicillins: Unknown
   Morphine: Unknown
   Last dose of Antibiotics:
   Levofloxacin - [**2109-11-15**] 11:53 AM
   Ceftazidime - [**2109-11-16**] 08:00 AM
   Vancomycin - [**2109-11-16**] 08:21 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Medications:
   Heparin Sodium
   Insulin
   Prednisone
   Lipitor
   Lasix
   Paxil
   Plavix
   ASA
   Colace
   Peridex
   Lopressor 150mg [**Hospital1 **]
   Flowsheet Data as of  [**2109-11-16**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.3
   HR: 98 (98 - 131) bpm
   BP: 93/45(56) {93/21(46) - 146/90(93)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 81.9 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  2,722 mL
                                                                  1,557 mL
   PO:
             TF:
                                                                  1,085 mL
                                                                    702 mL
   IVF:
                                                                    957 mL
                                                                    605 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                  1,280 mL
   Urine:
                                                                  1,835 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    887 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.42/47/167
   Ve: 6.5 L/min
   Physical Examination
   Gen:  Sedated, does not awaken to loud voice
   Chest:  Clear lungs
   CV:  RRR without murmur
   Abd: s/nt/nd
   Ext: no edema
   Labs / Radiology
   9.0 g/dL
   246 K/uL
   213 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.1 mEq/L
   26 mg/dL
   103 mEq/L
   139 mEq/L
   28.2 %
   10.8 K/uL
        [image002.jpg]
                             [**2109-11-12**]  04:06 AM
                             [**2109-11-12**]  12:36 PM
                             [**2109-11-12**]  08:52 PM
                             [**2109-11-13**]  12:40 PM
                             [**2109-11-13**]  12:55 PM
                             [**2109-11-14**]  08:15 AM
                             [**2109-11-14**]  08:25 AM
                            [**2109-11-15**]  05:10 AM
                            [**2109-11-15**]  07:47 AM
                            [**2109-11-16**]  03:47 AM
   WBC
   10.1
   11.5
   14.5
   10.7
   10.8
   Hct
   29.7
   28.2
   29.6
   26.8
   28.2
   Plt
   [**Telephone/Fax (3) 1256**]25
   246
   Cr
   0.9
   1.0
   0.8
   0.8
   0.7
   0.7
   TropT
   0.03
   0.03
   TCO2
   30
   30
   32
   Glucose
   237
   129
   179
   181
   243
   213
   Other labs: PT / PTT / INR:13.1/35.0/1.1, CK / CKMB /
   Troponin-T:28/4/0.03, ALT / AST:24/17, Alk Phos / T Bili:80/0.4,
   Amylase / Lipase:18/24, Lactic Acid:1.0 mmol/L, LDH:246 IU/L, Ca++:8.3
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   73F admitted w/ AMS related to hypoglycemia; now with PNA related to
   aspiration around acute event.
   1) Respiratory Failure:  Likely pneumonia related to an aspiration
   event when she was altered.  CXR is stable to slightly improved.  S/p
   bronch yesterday with negative microbiology data.  Overall her PNA is
   stable.
   - Will SBT today to evaluate for ability to extubate.  Likely remain
   intubated today because of copius secretions overnight.
   2) ID: Pneumonia
   - s/p bronch yesterday and await results.  Will continue
   vancomycin/levo/ceftaz; if cultures remain negative tomorrow, will
   consider tailoring antibiotics.
   3) Neuro:  Likely initial AMS related to hypoglycemia.  She has been
   able to follow commands when sedation weaned.  However, triglycerides
   are increasing with propofol.
   - daily awakening trial today
   - change sedation from propofol to fentanyl/versed
   4) Endocrine: titrate insulin coverage today
   5) CV:  BB/ASA/Plavix/Statin
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2109-11-16**] 07:37 AM 45 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   PICC Line - [**2109-11-14**] 02:00 PM
   Prophylaxis:
   DVT: heparin, boots
   Stress ulcer: PPI
   VAP: HOB, peridex, mouthcare
   Code status: Full code
   Disposition :  Likely to remain intubated today

2109-11-17 07:33:00 Physician Resident Progress Note
Chief Complaint: Hypoglycemia, respiratory failure, pneumonia
   24 Hour Events:
   - Pt was extubated sucessfully
   - Nursing concerned about ability to take po meds.  Switched meds to IV
   - switched metoprolol to 20mg IV q4
   - changed prednisone 5mg [**Hospital1 **] to hydrocortisone 15mg q8
   - increased NPH to 13U qAM/pm and increased SS by 2.
   - pt with c/o pain in her hand.  Gave 0.25 Dilaudid IV
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2109-11-15**] 11:53 AM
   Vancomycin - [**2109-11-16**] 07:30 PM
   Ceftazidime - [**2109-11-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-11-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-17**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 116 (97 - 131) bpm
   BP: 131/57(77) {91/41(54) - 156/77(95)} mmHg
   RR: 21 (14 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.9 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  2,271 mL
                                                                    125 mL
   PO:
             TF:
                                                                  1,017 mL
   IVF:
                                                                  1,004 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    360 mL
   Urine:
                                                                  2,960 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -689 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No acute distress, Aox1
   Eyes / Conjunctiva: Perrla
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardia
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Bibasilar rales
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: RUE wrist and elbow swollen and tender, mildly
   erythematous.  LUE mildly tender.
   Neurologic: Able to follow simple commands.
   Labs / Radiology
   259 K/uL
   8.8 g/dL
   111 mg/dL
   0.4 mg/dL
   27 mEq/L
   2.9 mEq/L
   17 mg/dL
   116 mEq/L
   148 mEq/L
   27.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2109-11-12**]  08:52 PM
                             [**2109-11-13**]  12:40 PM
                             [**2109-11-13**]  12:55 PM
                             [**2109-11-14**]  08:15 AM
                             [**2109-11-14**]  08:25 AM
                            [**2109-11-15**]  05:10 AM
                            [**2109-11-15**]  07:47 AM
                            [**2109-11-16**]  03:47 AM
                            [**2109-11-17**]  04:47 AM
                            [**2109-11-17**]  05:51 AM
   WBC
   11.5
   14.5
   10.7
   10.8
   8.8
   11.4
   Hct
   28.2
   29.6
   26.8
   28.2
   23.5
   27.6
   Plt
   279
   266
   225
   [**Telephone/Fax (3) 1358**]
   Cr
   1.0
   0.8
   0.8
   0.7
   0.7
   0.4
   TCO2
   30
   30
   32
   Glucose
   129
   179
   181
   243
   213
   111
   Other labs: PT / PTT / INR:13.1/35.0/1.1, CK / CKMB /
   Troponin-T:28/4/0.03, ALT / AST:24/17, Alk Phos / T Bili:80/0.4,
   Amylase / Lipase:18/24, Differential-Neuts:71.5 %, Lymph:16.9 %,
   Mono:9.7 %, Eos:1.8 %, Lactic Acid:1.0 mmol/L, LDH:246 IU/L, Ca++:6.6
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Microbiology: Blood, urine- NGTD
   Assessment and Plan
   Mrs. [**Known lastname 1219**] is a 73 year old female with a PMH significant for CAD, CM,
   COPD, DM, afib s/p pacer admitted with hypoglycemia and altered mental
   status likely secondary to aspiration pneumonia.
   .
   # Respiratory Failure: Given altered mental status, leukocytosis, and
   CXR findings, this likely represents an aspiration pneumonia.  Patient
   is s/p bronchoscopy with BAL and blood cultures NGTD.  Sputum culture
   from [**11-14**] with sparse coag neg Staph.  Patient is a NH resident.
   - Continue vancomycin and ceftaz
   - Follow-up culture data
   .
   # Pneumonia: Continue ceftazadime and vancomycin.
   - Monitor fever curve and WBC
   - Follow-up cultures
   .
   # RUE Swelling: Concerning for DVT. [**Month (only) 11**] also be secondary to crystal
   deposition arthropathy.  Less likely to be fracture given acute
   swelling multiple days after presentation.
   - RUE ultrasound
   - Bilaterlal UE plain films wrist, RUE elbow
   - Check serum urate
   - Standing ibuprofen, continue hydrocort
   .
   # Hypernatremia: Patient with serum Na of 150 this AM, represents a
   3.9L free water deficit.
   - Continue free water IVF
   - Recheck serum chemistries this afternoon.
   .
   # Afib: Continues to be tachycardic to 110s. Switched to metoprolol IV
   Q4H.
   - Continue metoprolol and up-titrate as necessary.
   .
   # Altered mental status: Likely secondary to hypoglycemia.  Pt with
   base-line dementia and oriented x2 per daughter.
   - Continue to monitor neuro status.
   .
   # ST depression on EKG:  Admission ECG showed ST depression in II, III,
   avL, v3-v4.  Cards was consulted and recommended following CE.  Cardiac
   biomarkers x4 drawn with rise in troponin to 0.04 with flat CK likely
   representing demand ischemia.
   - will monitor clinically, no intervention until clinical sx arise
   .
   # Anemia: Patient with hct of 27.6. MCV normocytic, unclear etiology to
   anemia.
   - Trend hct, transfuse for hct<25
   - Guaiac stools.
   .
   # DM: FS between 148-284. NPH increased overnight with FS between
   150-200.
   - Continue NPH, ISS. Will assess ISS requirement and adjust basal
   insulin as necessary.
   .
   # FEN: Nectar thickened, dysphagia diet. Will assess for signs of
   cough/aspiration and order speech and swallow as necessary.
   .
   # PPX: heparin SC, bowel regimen
   .
   # ACCESS: PICC.
   .
   # CONTACT: [**Name (NI) 342**] (daughter) [**Telephone/Fax (1) 1158**]
   .
   # CODE: Full
   .
   # DISPO: Call out today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2109-11-14**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-17 10:51:00 Physician Attending Progress Note
24 Hour Events:
   Extubated yesterday and stable overnight.  Complained of new right
   wrist/elbow pain with associated swelling today.  No lines on that
   side.  She does have a history of gout.
   Allergies:
   Penicillins: Unknown;
   Morphine: Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2109-11-17**] 08:17 AM
   Vancomycin - [**2109-11-17**] 09:17 AM
   ICU medications:
   Heparin Sodium SQ tid
   Hydrocortisone 15mg q8h
   Insulin
   Nebs
   Lipitor
   Lasix 40mg
   Plavix
   ASA
   Flowsheet Data as of  [**2109-11-17**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.8
   HR: 116 (97 - 122) bpm
   BP: 131/57(77) {91/43(56) - 156/77(95)} mmHg
   RR: 21 (14 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  2,271 mL
                                                                    677 mL
   PO:
             TF:
                                                                  1,017 mL
   IVF:
                                                                  1,004 mL
                                                                    677 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    440 mL
   Urine:
                                                                  2,960 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -689 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: 4L Nasal cannula
   SpO2: 96%
   Physical Examination
   Gen:  no acute distress
   Chest: Clear
   CV: IR/IR
   Abd: s/nt/nd
   Ext: R upper extremity with new [**2-6**]+ edema; tender elbow/ wrist and
   mild erythema
   Labs / Radiology
   8.8 g/dL
   259 K/uL
   136 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.7 mEq/L
   20 mg/dL
   109 mEq/L
   150 mEq/L
   27.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2109-11-12**]  08:52 PM
                             [**2109-11-13**]  12:40 PM
                             [**2109-11-13**]  12:55 PM
                             [**2109-11-14**]  08:15 AM
                             [**2109-11-14**]  08:25 AM
                            [**2109-11-15**]  05:10 AM
                            [**2109-11-15**]  07:47 AM
                            [**2109-11-16**]  03:47 AM
                            [**2109-11-17**]  04:47 AM
                            [**2109-11-17**]  05:51 AM
   WBC
   11.5
   14.5
   10.7
   10.8
   8.8
   11.4
   Hct
   28.2
   29.6
   26.8
   28.2
   23.5
   27.6
   Plt
   279
   266
   225
   [**Telephone/Fax (3) 1358**]
   Cr
   1.0
   0.8
   0.8
   0.7
   0.7
   0.4
   0.5
   TCO2
   30
   30
   32
   Glucose
   129
   179
   181
   243
   213
   111
   136
   Other labs: PT / PTT / INR:13.1/35.0/1.1, CK / CKMB /
   Troponin-T:28/4/0.03, ALT / AST:24/17, Alk Phos / T Bili:80/0.4,
   Amylase / Lipase:18/24, Differential-Neuts:71.5 %, Lymph:16.9 %,
   Mono:9.7 %, Eos:1.8 %, Lactic Acid:1.0 mmol/L, LDH:246 IU/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   73F admitted w/ AMS related to hypoglycemia; now with PNA related to
   aspiration around acute event.
   1) ID: Pneumonia
 extubated yesterday, leukocytosis and fever curve
   improving.  Microbiology only with Staph aureus in sputum, otherwise no
   other significant data.
   - Would continue current antibiotics given her clinical improvement
   with current regimen and a sputum culture with minimal Staph Aureus.
   - Stable respiratory status, can transfer to floor
   2) RUE swelling/pain:  ? gout arthtropathy, though minimal joint
   effusion.  Also should have eval for DVT given edema.
   - Check upper extremity non-invasive, plain films of elbow/wrist
   - Send uric acid
   - Treat with ibuprofen 800mg q8h (she is on a PPI and renal function is
   normal)
   3) Endocrine: titrate insulin coverage today
   4) CV:  BB/ASA/Plavix/Statin
   ICU Care
   Nutrition: Trial of thickned diet and monitoring
   Glycemic Control:  Insulin sliding scale, titrate today
   Lines:
   PICC Line - [**2109-11-14**] 02:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: PPI
   Code status: Full code
   Disposition :  Transfer to floor today